US07662825B2
2,3-Dichloro-N-[3-methoxy-5-(1-pyrrolinyl)-2-pyrazinyl]benzenesulphonamide
Prepared by the method of Example 55 using pyrrolidine (0.4 g) and N-(5-bromo-3-methoxy-2-pyrazinyl)-2,3-dichloro-N-[{2-(trimethylsilanyl)ethoxy}methyl]benzenesulphonamide (0.3 g). Yield 0.045 g.

reactant | pyrrolidine | 0.4 g | N1CCCC1 | C4H9N
reactant | N-(5-bromo-3-methoxy-2-pyrazinyl)-2,3-dichloro-N-[{2-(trimethylsilanyl)ethoxy}methyl]benzenesulphonamide | 0.3 g | BrC=1N=C(C(=NC1)N(S(=O)(=O)C1=C(C(=CC=C1)Cl)Cl)COCC[Si](C)(C)C)OC | C17H22BrCl2N3O4SSi
product | 2,3-Dichloro-N-[3-methoxy-5-(1-pyrrolinyl)-2-pyrazinyl]benzenesulphonamide | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=NC=C(N=C1OC)C1=NCCC1 | C15H14Cl2N4O3S
